US07592454B2
Ethyl 5-methyl-6-nitro-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (340 mg, 1.12 mmol) and palladium hydroxide (60 mg) were dissolved in EtOH (50 mL) and stirred for 18 h under H2 (55 psi). The mixture was filtered through Celite and the filtrate was evaporated to give ethyl 6-amino-5-methyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate as a light tan solid (202 mg, 66%). 1H NMR (CDCl3, 300 MH) δ 6.85-7.02 (m, 2H), 6.43-6.51 (d, 1H, J=7.0 Hz), 4.80 (br. s, 2H), 4.21 (q, 2H, J=6.6 Hz), 3.90 (s, 3H), 3.80-3.88 (m, 2H), 2.75-2.80 (m, 2H), 1.27 (t, 3H, J=7.3 Hz) ppm.

reactant | Ethyl 5-methyl-6-nitro-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 1.12 mmol, 340 mg | CN1C2=C(C=3C=CC=C(C13)[N+](=O)[O-])CN(CC2)C(=O)OCC | C15H17N3O4
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | palladium hydroxide | 60 mg | [OH-].[Pd+2].[OH-]
product | ethyl 6-amino-5-methyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 202 mg, 66% | NC1=CC=CC=2C3=C(N(C12)C)CCN(C3)C(=O)OCC | C15H19N3O2
